US08609656B2
In 10 mL of methanol, 12 mg (0.025 mmol) of 1-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-N-hydroxy-1H-indole-5-carboxamidine was dissolved and the solution was subjected to hydrogenation catalytic reduction on 10% palladium carbon in a hydrogen atmosphere at room temperature for 14 hours. After removal of the palladium carbon by a membrane filter, the filtrate was concentrated under reduced pressure, and the obtained product was triturated from diethyl ether to obtain 3 mg (25%) of 1-{4-[3-(3-(trifluoromethyl)phenyl)-ureido]phenyl}-1H-indole-5-carboxamidine (Table 1, Compound No. 25).

reactant | 1-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-N-hydroxy-1H-indole-5-carboxamidine | 0.025 mmol, 12 mg | ClC1=C(C=C(C=C1)NC(NC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)C(=N)NO)=O)C(F)(F)F | C23H17ClF3N5O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium carbon | [C].[Pd]
product | 1-{4-[3-(3-(trifluoromethyl)phenyl)-ureido]phenyl}-1H-indole-5-carboxamidine | 3 mg, 25% | FC(C=1C=C(C=CC1)NC(NC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)C(=N)N)=O)(F)F | C23H18F3N5O
